US09212182B2
A RBF was charged with (E)-ethyl 3-(5-(benzylthio)-2-((5-bromo-4-chloro-2-methoxyphenyl)amino)phenyl)acrylate (6.80 g, 12.76 mmol) and MeOH (63.8 ml) to give a yellow suspension. Sodium methoxide, 25 wt % solution in methanol (10.21 ml, 5.10 mmol) was added, the RBF was fitted with a reflux condenser and the reaction was heated at 70° C. overnight. The reaction was cooled to RT and concentrated in vacuo. The crude material was concentrated onto silica gel and purified via MPLC, eluting with 50% ethyl acetate in heptanes (with 10% DCM additive) (isocratic). The impure material retrieved from column chromatography was dissolved in DCM and further purified via SCX column (product eluted with the methanol wash). The methanol filtrate was concentrated in vacuo and then the solids were triturated in IPA, filtered over a frit washing with minimal IPA to yield 6-(benzylthio)-1-(5-bromo-4-chloro-2-methoxyphenyl)quinolin-2(1H)-one (2.71 g, 5.57 mmol, 43.6% yield) as a beige solid. m/z (ESI) 486.0 (M+H)+.

reactant | (E)-ethyl 3-(5-(benzylthio)-2-((5-bromo-4-chloro-2-methoxyphenyl)amino)phenyl)acrylate | 12.76 mmol, 6.80 g | C(C1=CC=CC=C1)SC=1C=CC(=C(C1)/C=C/C(=O)OCC)NC1=C(C=C(C(=C1)Br)Cl)OC | C25H23BrClNO3S
reactant | Sodium methoxide | C[O-].[Na+]
solvent | MeOH | 63.8 ml | CO | CH4O
solvent | methanol | 5.10 mmol, 10.21 ml | CO | CH4O
product | 6-(benzylthio)-1-(5-bromo-4-chloro-2-methoxyphenyl)quinolin-2(1H)-one | 5.57 mmol, 2.71 g, 43.6% yield | C(C1=CC=CC=C1)SC=1C=C2C=CC(N(C2=CC1)C1=C(C=C(C(=C1)Br)Cl)OC)=O | C23H17BrClNO2S
